US05719141
b) 3(R,S)Ethoxycarbonylamino-1,2,3,4-tetrahydroquinoline
10 ml of a 10% sodium hydroxide solution and 0.34 ml of ethyl chloroformate are added in succession to a solution of 0.5 g of 3(R,S)-amino-1,2,3,4-tetrahydroquinoline in 6 ml of toluene, while stirring vigorously, and when the addition has ended, the mixture is stirred for a further 5 min. Customary working up and chromatography of the crude product over 25 g of silica gel with methylene chloride as the mobile phase gives the title compound: Rf (P)=0.78; MS: M+ =220.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl chloroformate | 0.34 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3(R,S)-amino-1,2,3,4-tetrahydroquinoline | 0.5 g | NC1CNC2=CC=CC=C2C1 | C9H12N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 3(R,S)Ethoxycarbonylamino-1,2,3,4-tetrahydroquinoline | C(C)OC(=O)NC1CNC2=CC=CC=C2C1 | C12H16N2O2
